US04189485
In a procedure analogous to that of Example 9, by using 1.63 g of 6-ethylaminopurine, 1.38 g of potassium carbonate, 50 ml of N,N-dimethylacetamide and 3.58 g of 2-chloro-6-fluorobenzyl chloride, there was obtained 1.04 g of 9-(2-chloro-6-fluorobenzyl)-6-ethylaminopurine as colorless needles (yield: 34%), m.p. 175°-176° C.

reactant | 6-ethylaminopurine | 1.63 g | C(C)NC1=C2NC=NC2=NC=N1 | C7H9N5
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-fluorobenzyl chloride | 3.58 g | ClC1=C(CCl)C(=CC=C1)F | C7H5Cl2F
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 9-(2-chloro-6-fluorobenzyl)-6-ethylaminopurine | 1.04 g, yield: 34% | ClC1=C(CN2C3=NC=NC(=C3N=C2)NCC)C(=CC=C1)F | C14H13ClFN5
